US06858638B2
2-Methylsulfonyl-N-[3-phenylsulfanyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]benzenesulfonamide can be obtained in the following way: 0.44 g of 2-methylsulfonylbenzenesulfonyl chloride is added to a solution, at a a temperature in the region of 0° C. and under argon, of 0.61 g of 5-amino-3-phenylsulfanyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole in 10 ml of pyridine. The reaction mixture is then stirred for 1 hour at a temperature in the region of 0° C. and then 2 hours at a temperature in the region of 20° C. After filtration through sintered glass, the filtrate is diluted with a mixture of 45 ml of ethyl acetate and 30 ml of water. After settling out, the organic phase is washed with 2 times 30 ml of water. The organic extracts are pooled, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 25° C. The residue thus obtained is purified by chromatography under argon pressure (50 kPa), on a cartridge of 150 g of silica (particle size 20-40 μm), eluting successively with cyclohexane/ethyl acetate (90/10; 85/15; 70/30 by volume) mixtures. The fractions containing the expected product are pooled and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 20° C. 0.68 g of 2-methylsulfonyl-N-[3-phenylsulfanyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]benzenesulfonamide is thus obtained in the form of a burgundy-colored paste (Rf=0.35, silica gel thin layer chromatography, eluent: cyclohexane/ethyl acetate (70/30 by volume)).

reactant | 2-methylsulfonylbenzenesulfonyl chloride | 0.44 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H7ClO4S2
reactant | 5-amino-3-phenylsulfanyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazole | 0.61 g | NC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)SC1=CC=CC=C1 | C19H25N3OSSi
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-methylsulfonyl-N-[3-phenylsulfanyl-1-(2-trimethylsilanylethoxymethyl)-1H-indazol-5-yl]benzenesulfonamide | 0.68 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NN(C2=CC1)COCC[Si](C)(C)C)SC1=CC=CC=C1 | C26H31N3O5S3Si
